US06110952
A solution of 4-ethyl-5-isothiocyanatobenzoxazole (3.58 mmol) in toluene (75 mL) is treated with ethylenediamine (12.53 mmol). The reaction is stirred for 30 minutes as the product precipitates. The precipitate is filtered and dried in an oven to yield 5-[N'-(2-aminoethyl)thioureido]-4-ethylbenzoxazole as a white solid.

reactant | 4-ethyl-5-isothiocyanatobenzoxazole | 3.58 mmol | C(C)C1=C(C=CC2=C1N=CO2)N=C=S | C10H8N2OS
reactant | ethylenediamine | 12.53 mmol | C(CN)N | C2H8N2
solvent | toluene | 75 mL | C1(=CC=CC=C1)C | C7H8
product | 5-[N'-(2-aminoethyl)thioureido]-4-ethylbenzoxazole | NCCNC(NC=1C=CC2=C(N=CO2)C1CC)=S | C12H16N4OS
